data/polar.json
{"reaction_name": "General nucleophilic addition to an iminium C=N+ center", "rsmi": "[c:2]12[cH:13][c:22]([B-:21]([F:9])([F:10])[F:11])[n:8]([CH3:3])[c:17]1[cH:18][cH:5][cH:4][cH:15]2.[cH:1]1[cH:6][cH:19][c:16]([N+:12](=[CH2:14])[CH3:23])[cH:20][cH:7]1>>[cH:1]1[cH:6][cH:19][c:16]([N:12]([CH2:14][CH:13]2[c:2]3[cH:15][cH:4][cH:5][cH:18][c:17]3[N+:8]([CH3:3])=[C:22]2[B-:21]([F:9])([F:10])[F:11])[CH3:23])[cH:20][cH:7]1", "epd": [["LP-/Pi+", [8], [22, 8]], ["Pi-/Sigma+", [13, 22], [13, 14]], ["Pi-/LP+", [14, 12], [12]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:2][CH2:9][O:8][C:21]([CH:4]=[C:10]([CH3:23])[N:28]=[N:17][C:5](=[O:18])[NH:20][c:24]1[cH:26][cH:15][cH:25][cH:16][cH:27]1)=[O:19].[O-:1][C:22](=[CH:3][c:11]1[cH:13][cH:6][cH:30][cH:7][cH:14]1)[O:29][CH2:31][CH3:12]>>[O:1]=[C:22]([CH:3]([CH:4]([C:10]([CH3:23])=[N:28][N:17]=[C:5]([O-:18])[NH:20][c:24]1[cH:26][cH:15][cH:25][cH:16][cH:27]1)[C:21]([O:8][CH2:9][CH3:2])=[O:19])[c:11]1[cH:13][cH:6][cH:30][cH:7][cH:14]1)[O:29][CH2:31][CH3:12]", "epd": [["LP-/Pi+", [1], [22, 1]], ["Pi-/Sigma+", [3, 22], [3, 4]], ["Pi-/Pi+", [4, 10], [10, 28]], ["Pi-/Pi+", [28, 17], [17, 5]], ["Pi-/LP+", [5, 18], [18]]]}
{"reaction_name": "Hemiaminal proton relay", "rsmi": "[NH:1]([CH3:2])[CH:4]([OH+:3][H:6])[CH3:5]>>[NH+:1]([CH3:2])([CH:4]([OH:3])[CH3:5])[H:6]", "epd": [["LP-/Sigma+", [1], [1, 6]], ["Sigma-/LP+", [3, 6], [3]]]}
{"reaction_name": "Benzyne (dehydrobenzene) generation", "rsmi": "[c:1]1([Cl:7])[c:2]([H:8])[cH:3][cH:4][cH:5][cH:6]1.[NH2-:9]>>[C:1]1#[C:2][CH:3]=[CH:4][CH:5]=[CH:6]1.[Cl-:7].[NH2:9][H:8]", "epd": [["Sigma-/Pi+", [2, 8], [1, 2]], ["Sigma-/LP+", [1, 7], [7]], ["LP-/Sigma+", [9], [8, 9]]]}
{"reaction_name": "Oxa-Michael addition", "rsmi": "[O:4]=[N+:22]([O-:11])[c:18]1[cH:5][cH:8][c:13]([CH:20]=[CH:14][N+:17]([O-:21])=[O:23])[cH:9][cH:6]1.[c:1]1([O-:19])[cH:15][cH:2][c:10]([O:12][CH3:7])[cH:3][cH:16]1>>[c:1]1([O:19][CH:20]([c:13]2[cH:8][cH:5][c:18]([N+:22](=[O:4])[O-:11])[cH:6][cH:9]2)[CH:14]=[N+:17]([O-:21])[O-:23])[cH:15][cH:2][c:10]([O:12][CH3:7])[cH:3][cH:16]1", "epd": [["LP-/Sigma+", [19], [19, 20]], ["Pi-/Pi+", [20, 14], [14, 17]], ["Pi-/LP+", [17, 23], [23]]]}
{"reaction_name": "Michael addition", "rsmi": "[CH3:1][CH2:5][O:4][C:18]([CH:2]=[C:6]([CH3:22])[N:29]=[N:13][C:3](=[O:14])[NH:16][c:23]1[cH:26][cH:10][cH:24][cH:11][cH:27]1)=[O:15].[O-:7][c:25]1[cH:17][c:12](=[O:19])[n:28]([CH3:9])[c:21](=[O:8])[n:30]1[CH3:20]>>[CH3:1][CH2:5][O:4][C:18]([CH:2]([C:6]([CH3:22])=[N:29][N:13]=[C:3]([O-:14])[NH:16][c:23]1[cH:26][cH:10][cH:24][cH:11][cH:27]1)[CH:17]1[C:12](=[O:19])[N:28]([CH3:9])[C:21](=[O:8])[N:30]([CH3:20])[C:25]1=[O:7])=[O:15]", "epd": [["LP-/Pi+", [7], [25, 7]], ["Pi-/Sigma+", [17, 25], [17, 2]], ["Pi-/Pi+", [2, 6], [6, 29]], ["Pi-/Pi+", [29, 13], [13, 3]], ["Pi-/LP+", [3, 14], [14]]]}
{"reaction_name": "Nucleophilic addition to an oxocarbenium C=O+ center", "rsmi": "[CH:2](=[O+:11][CH3:10])[c:12]1[cH:8][cH:6][cH:3][cH:7][cH:9]1.[N+:1](=[N-:4])=[N-:5]>>[N+:1]([N-:4][CH:2]([O:11][CH3:10])[c:12]1[cH:8][cH:6][cH:3][cH:7][cH:9]1)#[N:5]", "epd": [["LP-/Pi+", [5], [1, 5]], ["Pi-/Sigma+", [4, 1], [4, 2]], ["Pi-/LP+", [2, 11], [11]]]}
{"reaction_name": "Aza-Michael addition", "rsmi": "[NH:1]1[CH:11]([C:26](=[O:14])[O-:22])[CH2:15][CH2:23][CH2:12]1.[O:2]=[C:24]1[N:6]([CH3:19])[C:21](=[O:8])[N:7]([CH3:20])[C:25](=[O:3])[C:16]1=[CH:18][c:9]1[cH:27][cH:4][c:17]([O:13][CH3:10])[cH:5][cH:28]1>>[NH+:1]1([CH:18]([c:9]2[cH:27][cH:4][c:17]([O:13][CH3:10])[cH:5][cH:28]2)[c:16]2[c:24]([O-:2])[n:6]([CH3:19])[c:21](=[O:8])[n:7]([CH3:20])[c:25]2=[O:3])[CH:11]([C:26](=[O:14])[O-:22])[CH2:15][CH2:23][CH2:12]1", "epd": [["LP-/Sigma+", [1], [1, 18]], ["Pi-/Pi+", [18, 16], [16, 24]], ["Pi-/LP+", [24, 2], [2]]]}
{"reaction_name": "Conjugate addition to an iminium-activated alkene", "rsmi": "[C:2]([CH:10]1[N+:17](=[CH:4][CH:35]=[CH:11][c:29]2[cH:5][cH:19][cH:3][cH:20][cH:6]2)[CH:16]([CH2:36][c:33]2[cH:41][cH:14][cH:22][cH:15][cH:42]2)[C:25](=[O:7])[N:34]1[CH3:24])([CH3:30])([CH3:31])[CH3:32].[CH:1]([C:18](=[O:21])[c:26]1[cH:8][cH:38][c:23]([N:37]([CH3:27])[CH3:28])[cH:39][cH:9]1)=[S:40]([CH3:12])[CH3:13]>>[CH:1]([CH:11]([c:29]1[cH:5][cH:19][cH:3][cH:20][cH:6]1)[CH:35]=[CH:4][N:17]1[CH:10]([C:2]([CH3:30])([CH3:31])[CH3:32])[N:34]([CH3:24])[C:25](=[O:7])[CH:16]1[CH2:36][c:33]1[cH:41][cH:14][cH:22][cH:15][cH:42]1)([C:18](=[O:21])[c:26]1[cH:8][cH:38][c:23]([N:37]([CH3:27])[CH3:28])[cH:39][cH:9]1)[S+:40]([CH3:12])[CH3:13]", "epd": [["Pi-/Sigma+", [1, 40], [1, 11]], ["Pi-/Pi+", [11, 35], [35, 4]], ["Pi-/LP+", [4, 17], [17]]]}
